US06638929B2
4-(2,4-Dichloroanilino)-8-hydroxybenzo[g]quinoline-3-carbonitrile
According to the procedure of example 105, the reaction mixture of 373.9 mg (0.954 mmol) of 4-(2,4-dichloroanilino)-8-methoxybenzo[g]quinoline-3-carbonitrile and 10 g of pyridine hydrochloride is stirred at 215° C. for 1 hour under N2. After cooling, the mixture is neutralized with 40 mL of a 3% ammonium hydroxide solution and stirred for 0.5 hour. The separated solid is filtered off and washed with water and ether. After drying in vacuo, this yields 333.4 mg (92.6%) of 4-(2,4-dichloroanilino)-8-hydroxybenzo[g]quinoline-3-carbonitrile as a yellow solid, mp 267-269° C.

reactant | 4-(2,4-dichloroanilino)-8-methoxybenzo[g]quinoline-3-carbonitrile | 0.954 mmol, 373.9 mg | ClC1=C(NC2=C(C=NC3=CC4=C(C=C23)C=CC(=C4)OC)C#N)C=CC(=C1)Cl | C21H13Cl2N3O
reactant | pyridine hydrochloride | 10 g | Cl.N1=CC=CC=C1
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 4-(2,4-Dichloroanilino)-8-hydroxybenzo[g]quinoline-3-carbonitrile | ClC1=C(NC2=C(C=NC3=CC4=C(C=C23)C=CC(=C4)O)C#N)C=CC(=C1)Cl | C20H11Cl2N3O
